US08536168B2
4-(1H-Indol-3-yl)-5′-trifluoromethyl-3,4,5,6-tetrahydro-2H-[1,2]-bipyridinyl (Compound 64)
3-piperidin-4-yl-1H-indole (0.5 g, 2.5 mmol) is suspended in 10 ml of DMF and is heated to 60° C. K2CO3 and 5-trifluoromethyl-2-chloropyridine (0.54 g, 3.0 mmol) are added and the reaction mixture is stirred at 95° C. for 1 hour. K2CO3 is removed by filtration and the filtrate is concentrated and purified with a silica gel flash column using heptane and ethyl acetate as the elutes.

reactant | 3-piperidin-4-yl-1H-indole | 2.5 mmol, 0.5 g | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-trifluoromethyl-2-chloropyridine | 3.0 mmol, 0.54 g | FC(C=1C=CC(=NC1)Cl)(F)F | C6H3ClF3N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(1H-Indol-3-yl)-5′-trifluoromethyl-3,4,5,6-tetrahydro-2H-[1,2]-bipyridinyl | N1C=C(C2=CC=CC=C12)C1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F | C19H18F3N3
